US07399867B2
Add a solution of 2,3-dibromo-benzo[b]thiophen-6-ol (43.9 g, 143 mmol) in DMF (1000 mL), dropwise, to a suspension of sodium hydride in DMF (1.5 L) at 0° C. Stir for 20 minutes, add benzyl bromide (17 mL, 143 mmol). Remove ice bath, and stir at room temperature for 2 hours. Pour reaction mixture into water (8 L) and ethyl acetate (4 L) and stir overnight. Separate layers and wash organic layer with water (3×800 mL) and brine (800 mL). Dry with sodium sulfate, filter, and concentrate in vacuo to give 52.4 g of 6-benzyloxy-2,3-dibromo-benzo[b]thiophene (92%).

reactant | 2,3-dibromo-benzo[b]thiophen-6-ol | 143 mmol, 43.9 g | BrC1=C(C2=C(S1)C=C(C=C2)O)Br | C8H4Br2OS
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 143 mmol, 17 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 8 L | O | H2O
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 4 L | C(C)(=O)OCC | C4H8O2
product | 6-benzyloxy-2,3-dibromo-benzo[b]thiophene | 52.4 g, 92% | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2Br)Br)C1 | C15H10Br2OS
